* Z:\trinary\code\circuits\trit_test.asc
Xtrit_i TRIT_i trit-i
Xpower $G_Vdd $G_Vss tpower
Xtrit_0 TRIT_0 trit-0
Xtrit_1 TRIT_1 trit-1

* block symbol definitions
.subckt trit-i COM
XX1 $G_Vss 0 $G_Vdd COM sp3t-1
.ends trit-i

.subckt tpower Vdd Vss
Vdd Vdd 0 5V
Vss 0 Vss 5V
.ends tpower

.subckt trit-0 COM
XX1 $G_Vss 0 $G_Vdd COM sp3t-2
.ends trit-0

.subckt trit-1 COM
XX1 $G_Vss 0 $G_Vdd COM sp3t-3
.ends trit-1

.subckt sp3t-1 1 2 3 COM
R§short1 COM 1 1
C§open2 2 COM 1p
C§open3 3 COM 1p
.ends sp3t-1

.subckt sp3t-2 1 2 3 COM
C§open1 1 COM 1p
C§open3 3 COM 1p
R§short2 2 COM 1
.ends sp3t-2

.subckt sp3t-3 1 2 3 COM
C§open1 COM 1 1p
C§open2 COM 2 1p
R§short3 3 COM 1
.ends sp3t-3

.op
.backanno
.end
